US04057573
40 g of finely powdered aluminum chloride are added in portions to a stirred solution of 20.6 g of 6-methoxy-indane-1-carboxylic acid methyl ester and 15.5 g of benzoyl chloride in 200 ml of absolute methylene chloride at 20° C, in an anhydrous atmosphere, stirring is continued overnight at room temperature and the reaction solution is then poured onto 500 g of ice and extracted with 3 times 100 ml of methylene chloride. The organic phases are washed successively with 500 ml of saturated sodium bicarbonate solution, 500 ml of 2 N hydrochloric acid and 500 ml of water, dried over anhydrous sodium sulphate and evaporated in vacuo. The evaporation residue, when crystallized from ether-petroleum ether after treatment with active charcoal, gives 5-benzoyl-6-hydroxy-indane-1-carboxylic acid methyl ester of melting point 89°-91° C.

reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 6-methoxy-indane-1-carboxylic acid methyl ester | 20.6 g | COC(=O)C1CCC2=CC=C(C=C12)OC | C12H14O3
reactant | benzoyl chloride | 15.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 5-benzoyl-6-hydroxy-indane-1-carboxylic acid methyl ester | COC(=O)C1CCC2=CC(=C(C=C12)O)C(C1=CC=CC=C1)=O | C18H16O4
